US07378418B2
362E. Preparation of 8-Chloro-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a stirring suspension of 8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (2.2 g, 8.4 mmol) and 5-(chloromethyl)-2-(trifluoromethyl)pyridine (2.1 g, 11 mmol) in DMF (15 mL) at room temperature under argon was added K2CO3 (1.74 g, 12.6 mmol). The resulting mixture was heated at 55° C. for 2 h. HPLC/MS analysis indicated complete reaction. The reaction mixture was concentrated under vacuum with co-evaporation of toluene (10 mL×2) to obtain a dark yellow solid. The crude product was purified by silica gel column chromatography (ISCO) eluting with hexanes/EtOAc/CH2Cl2. Desired product (2.1 g) was obtained as a brown solid. Washing with MeOH (10 mL×2) and drying provided pure title compound, 8-chloro-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (1.76 g, 56%) as a light yellow solid. MS [M+H]+ 420; HPLC retention time=3.53 min; 1HNMR (400 MHz, CDCl3) δ 8.89 (s, 1H), 8.13 (s, 1H), 8.00 (d, 1H), 7.70 (d, 1H), 7.30-7.50 (m, 4H), 5.36 (s, 2H), 2.45 (s, 3H).

reactant | 8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 8.4 mmol, 2.2 g | ClC=1C=2N(N=CC1C1=CC=C(C=C1)C)C(NN2)=O | C12H9ClN4O
reactant | 5-(chloromethyl)-2-(trifluoromethyl)pyridine | 11 mmol, 2.1 g | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
reactant | K2CO3 | 12.6 mmol, 1.74 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 8-Chloro-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 2.1 g | ClC=1C=2N(N=CC1C1=CC=C(C=C1)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C19H13ClF3N5O
